US06159956
Preparation of 1.2-Difluoro-3-(4-fluoro-3-phenoxyphenyl)-1-propene, (E)-
A solution of 1,1,2-trifluoro-3-(4-fluoro-3-phenoxyphenyl)-1-propene (17.7 g, 0.0627 mol) in tetrahydrofuran (90 ml) is added dropwise over a period of 15 minutes to an ice cooled mixture of tetrahydrofuran (90 ml) containing 18.8 ml (0.0627 mol) of a 65 wt. % solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene. After stirring at room temperature for 20 hours, the resultant mixture is cooled, treated sequentially with ethyl acetate, water and dilute hydrochloric acid, and diluted with diethyl ether. The organic layer is separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as a yellow liquid (16.08 g, 97% yield). 1H NMR analysis shows this material to be a 95:5 mixture of E:Z isomers.

reactant | 1,1,2-trifluoro-3-(4-fluoro-3-phenoxyphenyl)-1-propene | 0.0627 mol, 17.7 g | FC(=C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)F | C15H10F4O
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1.2-Difluoro-3-(4-fluoro-3-phenoxyphenyl)-1-propene | 16.08 g, 97% yield | FC=C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F | C15H11F3O
